US05576313
Step 4: Preparation of N-t-butoxycarbonyl-4-(2-methylbenzyl) isonipecotic acid
A mixture of 4-(2-methylbenzyl) N-t-butoxycarbonyl isonipecotic acid benzyl ester (2.36 g, 5.57 mmol), 5% Palladium on charcoal catalyst (250 mg), and glacial acetic acid (3 ml) in methanol (75 ml), was hydrogenated at 51 p.s.i. overnight, in a Parr shaker. The reaction mixture was then filtered through a pad of Celite and the pad washed several times with methanol. The combined filtrates were then concentrated in vacuo to the product, a white solid. 30 mg of this material was recrystallized from toluene to afford fine white crystals m.p. 176°-179° C. dec.

reactant | 4-(2-methylbenzyl) N-t-butoxycarbonyl isonipecotic acid benzyl ester | 5.57 mmol, 2.36 g | C(C1=CC=CC=C1)OC(C1(CCN(CC1)C(=O)OC(C)(C)C)CC1=C(C=CC=C1)C)=O | C26H33NO4
reactant | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
catalyst | Palladium on charcoal | 250 mg | [Pd] | Pd
solvent | methanol | 75 ml | CO | CH4O
product | N-t-butoxycarbonyl-4-(2-methylbenzyl) isonipecotic acid | C(C)(C)(C)OC(=O)N1CCC(C(=O)O)(CC1)CC1=C(C=CC=C1)C | C19H27NO4
